US06599942B1
A solution of the title B compound, 3,5-dimethyl-4-(4′-hydroxyphenoxy)nitrobenzene (7.86 g, 30.35 mmol) in 150 mL of dichloromethane (CH2Cl2) is treated with chlorosulfonic acid (2.4 mL, 36.42 mmol) at RT. After 16 h, the reaction mixture is concentrated and the residue is dissolved in small amount of CH2Cl2 (ca. 5 mL). The product is precipitated by addition of brine (100 mL), collected by vacuum filtration, washed with water, hexanes and diethyl ether (Et2O) and dried in vacuo to give 5-(2,6-dimethyl-4-nitrophenoxy)-2-hydroxy-benzenesulfonic acid: NMR (DMSO-d6) 2.18 (s, 6H), 6.67-6.83 (m, 3H), 8.1 (s, 2H), 10.07 (s, 1H).

reactant | 3,5-dimethyl-4-(4′-hydroxyphenoxy)nitrobenzene | 30.35 mmol, 7.86 g | CC=1C=C(C=C(C1OC1=CC=C(C=C1)O)C)[N+](=O)[O-] | C14H13NO4
reactant | chlorosulfonic acid | 36.42 mmol, 2.4 mL | ClS(=O)(=O)O | ClHO3S
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | 5-(2,6-dimethyl-4-nitrophenoxy)-2-hydroxy-benzenesulfonic acid | CC1=C(OC=2C=CC(=C(C2)S(=O)(=O)O)O)C(=CC(=C1)[N+](=O)[O-])C | C14H13NO7S
